US07297816B2
2-[4-Bromo-2-(2,6-difluoro-benzenesulfonylamino)-benzoylamino]-3-(2,4-dichloro-phenyl)-propionic acid. (S)-2-Amino-3-(2,4-dichloro-phenyl)-propionic acid was treated as in EXAMPLE 2, Part A, to produce (S)-2-amino-3-(2,4-dichloro-phenyl)-propionic acid methyl ester hydrochloride as a white solid. This ester was coupled with 4-bromo-2-(2,6-difluoro-benzenesulfonylamino)-benzoic acid as in EXAMPLE 1, Part C. The resulting methyl ester was hydrolyzed as in EXAMPLE 2, Part E, to afford title compound. HPLC: RT=10.26 min. MS (ESI−): mass calcd. for C22H15BrCl2F2N2O5S, 608.2; m/z found, 607 [M−H]−. 1H NMR (400 MHz, CDCl3): 11.36 (s, 1H), 7.87 (d, J=1.8, 1H), 7.52-7.44 (m, 1H), 7.39 (d, J=1.6, 1H), 7.27-7.25 (m, 1H), 7.25-7.22 (m, 1H), 7.18-7.15 (m, 1H), 6.97 (t, J=8.7, 2H), 6.79 (d, J=7.7, 1H), 5.05-5.00 (m, 1H), 3.50 (dd, J=14.2, 5.5, 1H), 3.29 (dd, J=14.2, 8.1, 1H).

reactant | 2-[4-Bromo-2-(2,6-difluoro-benzenesulfonylamino)-benzoylamino]-3-(2,4-dichloro-phenyl)-propionic acid | BrC1=CC(=C(C(=O)NC(C(=O)O)CC2=C(C=C(C=C2)Cl)Cl)C=C1)NS(=O)(=O)C1=C(C=CC=C1F)F | C22H15BrCl2F2N2O5S
reactant | (S)-2-Amino-3-(2,4-dichloro-phenyl)-propionic acid | N[C@H](C(=O)O)CC1=C(C=C(C=C1)Cl)Cl | C9H9Cl2NO2
product | (S)-2-amino-3-(2,4-dichloro-phenyl)-propionic acid methyl ester hydrochloride | Cl.COC([C@H](CC1=C(C=C(C=C1)Cl)Cl)N)=O | InChI=1S/C10H11Cl2NO2.ClH/c1-15-10(14)9(13)4-6-2-3-7(11)5-8(6)12;/h2-3,5,9H,4,13H2,1H3;1H/t9-;/m0./s1
